* C:\Users\You\Documents\Project-Dyson\Simulations\PhotodiodeAmp_Photoelectric.asc
D1 N005 N001 D
I2 N001 N005 {I_D}
C1 N005 N001 {Cj}
R1 N005 N001 {Rsh}
R2 0 N005 {Rs}
XU1 N004 N003 N002 VCC 0 LTC2054
R3 N003 N001 {mc(R1,tol_R)}
C2 N002 N003 {mc(C1,tol_c)}
R4 N002 N001 {mc(R2,tol_r)}
R5 OUT N002 {mc(R3,tol_r)}
C3 OUT 0 {mc(C2,tol_r)}
V1 VCC 0 {mc(3.3,tol_vcc)}
V2 N004 0 {flat(3e-6)}
I1 N001 N005 1.59e-6
.model D D
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.dio
.param I_D = 0.01e-9
.param Cj = 3.8e-12
.param Rsh = 2e9
.param Rs = 1e-6
.dc I1 0 50e-6 1e-9
.param tol_r = 0.001
.param tol_c = 0.2
.param tol_vcc = 0.05
.param R1 = 1k
.param R2 = 49.9k
.param R3 = 2k
.param C1 = 0.15e-6
.param C2 = 0.01e-6
.lib LTC2.LIB
.backanno
.end
