* C:\Users\You\Documents\Project-Dyson\Simulations\ThermopileAmp_Differential.asc
XU1 N007 N002 N003 V+ 0 LTC2054
R1 N003 N002 {mc(Rf,tol_r)}
R2 N002 0 {mc(Rg,tol_r)}
R3 N007 N008 {mc(R1,tol_r)}
R4 N010 N007 {mc(R2,tol_r)}
R5 N003 0 100k
V1 VRef 0 {mc(1.8,4e-4)}
V2 N005 0 {mc(5, tol_vcc)} AC 100e-6
V3 N006 0 {mc(-5,tol_vcc)} AC 100e-6
V4 N004 N009 {flat(3e-6)}
V5 N009 0 3e-3 Rser=60k
XU2 N004 N001 N001 V+ V- LTC2054
V6 N008 N001 {flat(3e-6)}
V7 V+ N005 SINE(0 100e-6 50k)
V8 V- N006 SINE(0 100e-6 50k 0 0 180)
XU3 N011 N010 N010 V+ 0 LTC2054
R6 VRef N011 {mc(R2,tol_r)}
R7 N011 0 {mc(R2,tol_r)}
.param tol_r = 0.001
.param tol_c = 0.1
.param tol_vcc = 0.05
.param R1 = 1k
.param R2 = 100k
.param Rf = 100k
.param Rg = 1k
.step param run 1 100 1
.tran 10e-3
.lib LTC2.LIB
.backanno
.end
